* 6-pole crystal ladder, butterworth 0.1 dB, B=660.0 Hz, Monte Carlo 200 runs
* nominal crystal fs=9000000.0 Hz Cm=20.000 fF Rs=15.0 ohm C0=4.50 pF Lm=15.6360 mH Qu=58946
* design k=[1.1688, 0.605, 0.5176, 0.605, 1.1688] q1=0.5176 qn=0.5176 Qend_loaded=7059 R1=110.26 Rn=110.26
* Ck=[233.35, 450.79, 526.87, 450.79, 233.35] pF  Ct=[450.79, None, 418.85, 418.85, None, 450.79] pF  f_mesh=9000585.3 Hz
.param fs0=9000000 cm0=2e-14 c00=4.5e-12
.param tolf=3e-05 truncf=0
.param cmsig=0.03 cmtr=0.1
.param rsmin=8 rsmax=30 c0min=3.5e-12 c0max=5.5e-12
.param captol=0.02 restol=0.01
.param ef1={flat(tolf)}
.param ec1={limit(gauss(cmsig),-cmtr,cmtr)}
.param cm1={cm0*(1+ec1)}
.param fs1={fs0*(1+ef1)}
.param lm1={1/(pow(2*pi*fs1,2)*cm1)}
.param rs1={rsmin+(rsmax-rsmin)*(0.5+flat(0.5))}
.param c0_1={c0min+(c0max-c0min)*(0.5+flat(0.5))}
.param ef2={flat(tolf)}
.param ec2={limit(gauss(cmsig),-cmtr,cmtr)}
.param cm2={cm0*(1+ec2)}
.param fs2={fs0*(1+ef2)}
.param lm2={1/(pow(2*pi*fs2,2)*cm2)}
.param rs2={rsmin+(rsmax-rsmin)*(0.5+flat(0.5))}
.param c0_2={c0min+(c0max-c0min)*(0.5+flat(0.5))}
.param ef3={flat(tolf)}
.param ec3={limit(gauss(cmsig),-cmtr,cmtr)}
.param cm3={cm0*(1+ec3)}
.param fs3={fs0*(1+ef3)}
.param lm3={1/(pow(2*pi*fs3,2)*cm3)}
.param rs3={rsmin+(rsmax-rsmin)*(0.5+flat(0.5))}
.param c0_3={c0min+(c0max-c0min)*(0.5+flat(0.5))}
.param ef4={flat(tolf)}
.param ec4={limit(gauss(cmsig),-cmtr,cmtr)}
.param cm4={cm0*(1+ec4)}
.param fs4={fs0*(1+ef4)}
.param lm4={1/(pow(2*pi*fs4,2)*cm4)}
.param rs4={rsmin+(rsmax-rsmin)*(0.5+flat(0.5))}
.param c0_4={c0min+(c0max-c0min)*(0.5+flat(0.5))}
.param ef5={flat(tolf)}
.param ec5={limit(gauss(cmsig),-cmtr,cmtr)}
.param cm5={cm0*(1+ec5)}
.param fs5={fs0*(1+ef5)}
.param lm5={1/(pow(2*pi*fs5,2)*cm5)}
.param rs5={rsmin+(rsmax-rsmin)*(0.5+flat(0.5))}
.param c0_5={c0min+(c0max-c0min)*(0.5+flat(0.5))}
.param ef6={flat(tolf)}
.param ec6={limit(gauss(cmsig),-cmtr,cmtr)}
.param cm6={cm0*(1+ec6)}
.param fs6={fs0*(1+ef6)}
.param lm6={1/(pow(2*pi*fs6,2)*cm6)}
.param rs6={rsmin+(rsmax-rsmin)*(0.5+flat(0.5))}
.param c0_6={c0min+(c0max-c0min)*(0.5+flat(0.5))}
.param ck1={2.33345367e-10*(1+flat(captol))}
.param ck2={4.50788632e-10*(1+flat(captol))}
.param ck3={5.26868633e-10*(1+flat(captol))}
.param ck4={4.50788632e-10*(1+flat(captol))}
.param ck5={2.33345367e-10*(1+flat(captol))}
.param ct1={4.50788632e-10*(1+flat(captol))}
.param ct3={4.18850457e-10*(1+flat(captol))}
.param ct4={4.18850457e-10*(1+flat(captol))}
.param ct6={4.50788632e-10*(1+flat(captol))}
.param r1={110.263005*(1+flat(restol))} rn={110.263005*(1+flat(restol))}
V1 in 0 AC 1
R1 in n1 {r1}
Ct1 n1 t1 {ct1}
L1 t1 m1a {lm1}
Cm1 m1a m1b {cm1}
Rs1 m1b n2 {rs1}
C0_1 t1 n2 {c0_1}
Ck1 n2 0 {ck1}
L2 n2 m2a {lm2}
Cm2 m2a m2b {cm2}
Rs2 m2b n3 {rs2}
C0_2 n2 n3 {c0_2}
Ck2 n3 0 {ck2}
Ct3 n3 t3 {ct3}
L3 t3 m3a {lm3}
Cm3 m3a m3b {cm3}
Rs3 m3b n4 {rs3}
C0_3 t3 n4 {c0_3}
Ck3 n4 0 {ck3}
Ct4 n4 t4 {ct4}
L4 t4 m4a {lm4}
Cm4 m4a m4b {cm4}
Rs4 m4b n5 {rs4}
C0_4 t4 n5 {c0_4}
Ck4 n5 0 {ck4}
L5 n5 m5a {lm5}
Cm5 m5a m5b {cm5}
Rs5 m5b n6 {rs5}
C0_5 n5 n6 {c0_5}
Ck5 n6 0 {ck5}
Ct6 n6 t6 {ct6}
L6 t6 m6a {lm6}
Cm6 m6a m6b {cm6}
Rs6 m6b out {rs6}
C0_6 t6 out {c0_6}
Rn out 0 {rn}
.ac lin 6001 8994585.33 9006585.33
.step param run 1 200 1
.save V(out) V(in)
.end
