* rc-seeded-error.net: rc-lowpass netlist with a seeded second analysis (tools/tests/fixtures/ltspice/known-answers.json)
V1 in 0 AC 1
R1 in out 1k
C1 out 0 159.155n
.ac dec 100 10 100k
.tran 10m
.meas AC f3db WHEN mag(V(out))=1/sqrt(2)
.end
